US05942511
Synthesis of 3-methoxy-4,5-dimethyl-6-allylthiopyridazine
0.23 g(0.01 mol) of metallic sodium was dissolved in 30 ml of absolute methanol and then mixed with 0.93 ml(0.01 mol) of allylmercaptan. To this mixture was added 1.73 g(0.01 mol) of 3-methoxy-4,5-dimethyl-6-chloropyridazine obtained from Preparation 5. The reaction solution was refluxed for one hour and then treated according to the same manner as Example 1 to obtain the title compound as a freezing pale white crystal.

reactant | sodium | 0.01 mol, 0.23 g | [Na] | Na
reactant | allylmercaptan | 0.01 mol, 0.93 ml | C(C=C)S | C3H6S
reactant | 3-methoxy-4,5-dimethyl-6-chloropyridazine | 0.01 mol, 1.73 g | COC=1N=NC(=C(C1C)C)Cl | C7H9ClN2O
solvent | methanol | 30 ml | CO | CH4O
product | 3-methoxy-4,5-dimethyl-6-allylthiopyridazine | COC=1N=NC(=C(C1C)C)SCC=C | C10H14N2OS
